US09371320B2
C) 4-(7-chloro-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)-N-methylbenzamide
To a solution of 4-(7-chloro-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzoic acid (78.3 mg) in anhydrous DMF (3 mL) were added methylammonium chloride (25.4 mg), EDCI hydrochloride (72.2 mg), HOBt (57.7 mg) and triethylamine (0.052 mL) at room temperature, and the mixture was stirred at room temperature for 96 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (72.0 mg).

reactant | 4-(7-chloro-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzoic acid | 78.3 mg | ClC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C2=CC=C(C(=O)O)C=C2 | C20H12ClF2N3O3
reactant | methylammonium chloride | 25.4 mg | [Cl-].C[NH3+]
reactant | EDCI hydrochloride | 72.2 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 57.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.052 mL | C(C)N(CC)CC | C6H15N
product | 4-(7-chloro-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)-N-methylbenzamide | 72.0 mg | ClC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C2=CC=C(C(=O)NC)C=C2 | C21H15ClF2N4O2
